*
*
* Model Usage Notes:
* The following features are modelled,
* 1. The Startup phases for VIN <1.6V & VIN >1.6V.
* 2. Burst Mode.
* 3. OVP 
* 4. Pass Through Mode.
* 5. Down Mode.
*
* The following features are not modelled,
* 1. Input and quiescent current of the part have not been modelled.
* 2. Temperature effects have not been modelled.
* 3. GND pin is internally connected to 0V and model doesn't support inverting topology.
*****************************************************************************
.SUBCKT TPS61099 EN FB SW PAD VIN VOUT GND
+PARAMS: SS=0
X_U76         OVP_HI OVP_HI_INV INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_u1_ABMII3         u1_UVLO_TH 0 VALUE { IF(V(u1_UVLO_CTL)>0.5,1.25u,0)}
E_u1_ABM1         u1_ETH 0 VALUE { IF(V(VIN)>1.5,0.9,0.6*V(VIN))}
E_u1_ABM2         u1_ETH_HYS 0 VALUE { IF(V(VIN)>1.5,0.7,0.4*V(VIN))}
R_u1_R2         u1_N16715316 u1_UVLO_TH  100k TC=0,0 
V_u1_V3         u1_N16715316 0 0.6
X_u1_U4         u1_N16715040 u1_UVLO_CTL EN_CTL AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u1_U5         VIN u1_UVLO_TH u1_N16715210 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
R_u1_R1         u1_N16715210 u1_UVLO_CTL  1 TC=0,0 
C_u1_C6         0 u1_UVLO_CTL  1n  TC=0,0 
X_u1_U3         EN u1_ETH u1_ETH_HYS u1_N16715040 COMPHYS_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=0.5
X_U664         N17037638 DWN N17152648 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_ABM18         N17109397 0 VALUE { IF(V(VIN)<(V(VO)+100m),1,0)}
X_U3         VOUT OVP_TH N16778451 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U73         N16776687 PT_CTL N17037638 OR2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U74         PT_CTL_INV N16863467 GATE_N AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U79         N16846666 N16847172 PT_CTL PT_CTL_INV srlatchrhp_basic_gen
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
R_R1         N16778451 OVP_HI  1 TC=0,0 
E_ABM19         VVV 0 VALUE { IF(V(PG)>0.5 &
+  V(PG1)<0.5,IF(V(VIN)-V(VOUT)>=400m,1,0),0)}
X_U657         N16867187 COMP_OUT ZC ZCB srlatchrhp_basic_gen PARAMS: VDD=1
+  VSS=0 VTHRESH=0.5
C_C1         0 OVP_HI  1n  TC=0,0 
X_u2_U80         u2_N17280042 u2_N17283567 u2_N17279068 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_u2_U33         u2_BOOST_OP_START u2_N17283567 INV_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
E_u2_ABM23         u2_VSS 0 VALUE { IF(V(u2_PG11)<0.5,V(u2_N16760803),1)}
R_u2_R6         0 COMP  30k  
V_u2_V3         u2_N169623641 0 0.7
X_u2_U78         u2_ERR_AMP_1 u2_VSS d_d PARAMS:
X_u2_U37         u2_N17011305 u2_N17279068 u2_N17278626 N17278846
+  srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0 VTHRESH=0.5
E_u2_ABM20         u2_DUMMY1 0 VALUE { IF(V(u2_BOOST_OP_START) >0.5,V(FB),0)   
+}
C_u2_C3         COMP 0  100f IC={988.0605812339229m*SS} TC=0,0 
R_u2_R9         u2_N16758835 u2_REF  300  
G_u2_ABMII2         0 u2_N16760803 VALUE { IF(V(u2_BOOST_OP_START)>0.5 ,6n,0)  
+}
X_u2_U72         u2_N169623641 u2_ERR_AMP_1 d_d1 PARAMS:
X_u2_S3    u2_DISCH u2_N16760747 u2_N16760803 u2_N16760747 CONTROL_u2_S3 
R_u2_rr         PG u2_PG11  {50/0.693}  
X_u2_U31         EN_CTL u2_N17151389 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_u2_C5         u2_N16760747 u2_N16760803  20p IC=0 TC=0,0 
C_u2_cc         0 u2_PG11  1u  TC=0,0 
X_u2_H1    u2_N16757963 0 u2_N17262316 0 CONTROL_u2_H1 
X_u2_U32         EN_CTL u2_N17280042 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_u2_U60         u2_N17151389 u2_BOOST_OP_START u2_N16784785 AND2_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
G_u2_ABM2I3         u2_REF 0 VALUE {
+  LIMIT(((V(u2_ERR_AMP_1)-V(u2_N16758391))*50u),0,50u)}
E_u2_E1         u2_N16758835 0 VALUE { IF(V(u2_BOOST_OP_START)>0.5,1,0)}
X_u2_U71         0 COMP d_d1 PARAMS:
G_u2_ABMII1         u2_N16757963 0 VALUE { LIMIT((V(COMP_OUT)*2u),0,4u)}
R_u2_R5         u2_N16917316 u2_ERR_AMP_1  250k  
X_u2_U59         u2_N16760961 EN_CTL u2_N17027313 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
G_u2_ABM2I7         0 u2_SENSE VALUE { LIMIT(((V(u2_N17262316)-V(0))),0,10m)}
E_u2_E2         u2_N16801589 0 TABLE { V(VIN, 0)} 
+ ( (0.7,250m) (1.5,250m)(2.4,300m)(5,250m) )
R_u2_R4         0 u2_ERR_AMP_1  100meg  
R_u2_R10         0 u2_SENSE  30k TC=0,0 
X_u2_H2    u2_N16757991 SW_INT ISENSE 0 CONTROL_u2_H2 
C_u2_C2         u2_ERR_AMP_1 0  2p IC={700m*SS} TC=0,0 
R_u2_R7         u2_N16759022 u2_N16759215  {50/0.693}  
E_u2_ABM22         u2_CL 0 VALUE { IF(V(u2_N17278626)>0.5,1,0.85)}
E_u2_ABM21         u2_N17011305 0 VALUE { IF(V(u2_PG11)<0.5,0,1)}
C_u2_CDUMMY3         u2_DUMMY3 0  1n  TC=0,0 
E_u2_ABM18         u2_N16760961 0 VALUE { IF(V(VOUT) >= 1.6,1,0)}
C_u2_CDUMMY1         u2_FB_1 0  1n  TC=0,0 
X_u2_U73         COMP u2_N16907021 d_d1 PARAMS:
R_u2_RDUMMY1         u2_DUMMY1 u2_FB_1  1 TC=0,0 
C_u2_C4         0 u2_N16759215  1n  TC=0,0 
X_u2_U79         u2_ERR_AMP_1 u2_CL d_d PARAMS:
V_u2_V10         u2_N16907021 0 1.5
C_u2_C1         u2_N16917316 0  23.5p IC={700m*SS} TC=0,0 
X_u2_U68         u2_N16759215 COMP_OUT BUF_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
V_u2_V2         u2_N16758391 0 0.7
V_u2_V13         u2_N16760747 0 0.7
E_u2_EDUMMY         u2_DUMMY3 0 u2_SENSE 0 1
X_u2_U1         COMP u2_DUMMY3 u2_N16801589 u2_N16759022 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_u2_U36         u2_N17027313 u2_N16784785 u2_BOOST_OP_START u2_DISCH
+  srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0 VTHRESH=0.5
G_u2_ABM2I1         0 u2_ERR_AMP_1 VALUE {
+  LIMIT((V(u2_REF)-V(u2_FB_1))*7.5u,-500n,5u)}
X_u2_U69         u2_N16759215 COMP_INV INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_u2_F1    SW u2_N16757991 0 u2_N16757963 CONTROL_u2_F1 
G_u2_ABM2I2         0 COMP VALUE {
+  LIMIT(((V(u2_ERR_AMP_1)-V(u2_N16758391))*200u),-100u,200u)}
R_R49         0 ZCB  1e8 TC=0,0 
G_ABMII1         OVP_TH 0 VALUE { IF(V(OVP_HI)>0.5,1u,0)}
X_U69         FB N16779205 N16779207 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
E_ABM15         N16846666 0 VALUE {
+  IF(V(PG)>0.5,IF(V(VIN)-V(VOUT)>=400m,1,0),0)}
C_C5         GATE_P 0  1n  TC=0,0 
V_V6         N16867179 0 10m
R_R2         N16778516 OVP_TH  100k TC=0,0 
X_U62         N16779207 EN_CTL PG AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
R_R52         0 GND  1m TC=0,0 
X_U75         N16926679 ZCB N16853839 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U658         N16867179 ISENSE N16867187 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
V_V7         N17091783 0 1.005
E_ABM13         N16779205 0 VALUE { IF(V(PG) < 0.5,0.98,0.97)}
V_V1         N16778516 0 5.8
X_U77         COMP_INV SW_EN N16926679 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U71         N16853839 EN_CTL OVP_HI_INV N16776687 AND3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
R_R54         N17154785 DWN  1 TC=0,0 
C_C6         DWN 0  1n  TC=0,0 
C_C3         0 VO  1n  TC=0,0 
X_U665         FB N17091783 N17091277 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_U78         COMP_OUT SW_EN N16863473 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
E_ABM28         N17154785 0 VALUE { IF(V(PT_CTL)<0.5,IF(V(PG)>0.5,
+  IF(V(VIN)>(V(VOUT)-50m) & V(VIN)<(V(VOUT)+400m),0,1),1),1)}
X_U63         N17109397 PT_CTL N16847172 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_u3_U41         u3_VOUTG1P6 u3_N17010737 u3_N17010769 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
M_u3_M5         VOUT u3_N17125927 u3_N17125943 u3_N17125943 PMOS_SIMPLE  
+ L=320u  
+ W={11090000u/2}         
E_u3_ABM29         u3_N17010772 0 VALUE { if(V(u3_VIN_HI) <0.5,V(VIN) -30m,
+  V(VIN)-60m)}
X_u3_H4    SW_INT u3_N16768417 u3_ISENSE_L 0 DRIVER_u3_H4 
M_u3_M4         VOUT u3_N17121619 u3_N17121641 u3_N17121641 PMOS_SIMPLE  
+ L=180u  
+ W={11090000u/2}         
E_u3_ABM30         u3_N17125927 0 VALUE { IF(V(VIN)>1.1 &
+  V(VIN)<=1.6,IF(V(u3_STEP1)>0.5 | V(u3_STEP3)>0.5, V(VIN),100),100)}
X_u3_U44         u3_VING1P6 u3_N17010769 u3_STEP3 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
V_u3_V9         u3_N16827411 u3_N16830552 -0.5
E_u3_ABM10         u3_MAX 0 VALUE { max(V(VIN), V(VOUT))}
E_u3_ABM28         u3_N17159596 0 VALUE {
+  IF(V(DWN)<0.5,MAX(V(VIN),V(VOUT)),100)}
V_u3_V13         u3_N16920210 u3_MAX 0.6
X_u3_U14         u3_N16827411 VOUT d_d1 PARAMS:
X_u3_U19         u3_N16768417 u3_N17121694 d_d1 PARAMS:
X_u3_U51         u3_VIN_HI u3_VING1P6 u3_STEP4 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u3_S5    u3_N16830778 0 u3_N16768417 u3_N16830552 DRIVER_u3_S5 
X_u3_U50         VIN u3_N17025502 u3_N170255193 u3_VING1P6 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_u3_U32         u3_STEP5 u3_STEP4 u3_N16830778 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
M_u3_M3         VOUT u3_N17121661 u3_N17121694 u3_N17121694 PMOS_SIMPLE  
+ L=175u  
+ W={11090000u/2}         
X_u3_U93         u3_VING u3_STEP1 u3_VING_BOOST AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u3_U99         VOUT VIN u3_VING COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_u3_S3    u3_SW_N 0 u3_N16768417 0 DRIVER_u3_S3 
V_u3_V21         u3_N170255193 0 10m
X_u3_U83         u3_GATE_P_INT u3_N17097383 u3_SW_P AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_u3_U100         u3_STEP5 PT_CTL u3_STEP4 u3_N17097383 OR3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
V_u3_V22         u3_N17025502 0 1.6
E_u3_ABM27         u3_N17121661 0 VALUE { IF(V(VIN)>1.6,IF(V(u3_STEP1)>0.5 |
+  V(u3_STEP3)>0.5, V(VIN),100),100)}
X_u3_U86         GATE_N u3_N17048699 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=3n
X_u3_U18         u3_N16929859 u3_N16929901 u3_OSC u3_OSC_INV
+  srlatchrhp_basic_gen PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_u3_U20         u3_N16768417 u3_N17121641 d_d1 PARAMS:
X_u3_U22         u3_VING1P6 u3_N17025636 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_u3_U16         u3_N16931824 u3_N16768417 d_d1 PARAMS:
X_u3_U79         GATE_P u3_N16768645 u3_GATE_P_INT AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u3_U80         GATE_N u3_N17048699 u3_GATE_N_INT AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
E_u3_ABM19         u3_N16929859 0 VALUE { If(V(EN_CTL) > 0.5, If(V(u3_ISENSE_L)
+  < 0.001,1,0),0)}
X_u3_H5    u3_N16931824 0 u3_ISENSE_P 0 DRIVER_u3_H5 
X_u3_U84         GATE_P u3_N16768645 BUF_DELAY_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5 DELAY=3n
R_u3_R54         u3_N17159596 u3_N17121619  1 TC=0,0 
X_u3_U15         u3_N16768417 u3_N16920377 d_d1 PARAMS:
X_u3_U95         u3_N16944488 u3_N16925286 u3_SW_N OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u3_S6    u3_N17001197 u3_N16931824 u3_N16768417 u3_N16931824 DRIVER_u3_S6 
R_u3_R6         u3_N16929884 u3_N16929901  {30/0.69}  
X_u3_U48         VOUT u3_N17023636 u3_N170236573 u3_VOUTG1P6 COMPHYS_BASIC_GEN
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
X_u3_U92         u3_BOOST u3_N16933776 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
C_u3_C6         u3_N17121619 0  1n  TC=0,0 
X_u3_S4    u3_SW_P 0 u3_N16768417 VOUT DRIVER_u3_S4 
V_u3_V20         u3_N17023636 0 1.6
X_u3_U43         u3_N17029519 EN_CTL u3_STEP5 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
C_u3_C9         u3_N16929901 0  1n  
X_u3_U24         u3_N16929901 u3_N16929884 d_d2 PARAMS:
X_u3_U13         0 u3_N16768417 d_d1 PARAMS:
V_u3_V19         u3_N170236573 0 5m
X_u3_U85         u3_N16933776 u3_OSC u3_N17001197 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
E_u3_ABM20         u3_N16929884 0 VALUE {
+  IF(V(EN_CTL)>0.5,IF(V(u3_ISENSE_P)>V(u3_RIPP),1,0),1)}
X_u3_U21         u3_VOUTG1P6 u3_N17011429 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_u3_U37         u3_VOUTG1P6 u3_N17025636 u3_N17029519 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
E_u3_ABM25         u3_RIPP 0 VALUE {
+  IF(V(VIN)<=2,V(VIN)/10,(200m+((V(VIN)-2)/50)))}
X_u3_U26         u3_N16768417 u3_N16920210 d_d2 PARAMS:
X_u3_U49         VOUT u3_N17010772 u3_VIN_HI COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
X_u3_U87         u3_VING_BOOST u3_OSC u3_N16925286 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_u3_U42         u3_N17011429 EN_CTL u3_STEP1 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
E_u3_ABM24         u3_N16920345 0 VALUE {
+  IF(V(VIN)<=1.1,IF(V(u3_BOOST)<0.5,V(VIN),100),100)}
X_u3_U52         u3_STEP3 u3_STEP4 u3_STEP5 u3_BOOST OR3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
X_u3_U25         u3_VIN_HI u3_N17010737 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_u3_U23         u3_N16768417 u3_N17125943 d_d1 PARAMS:
M_u3_M1         VOUT u3_N16920345 u3_N16920377 u3_N16920377 PMOS_SIMPLE  
+ L=550u  
+ W={110900000u/60}         
X_u3_U82         u3_GATE_N_INT u3_BOOST u3_N16944488 AND2_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
C_CFF         FB VOUT  10p  TC=0,0 
R_R53         N17152648 GATE_P  1 TC=0,0 
X_U70         N16863473 EN_CTL OVP_HI_INV N16863467 AND3_BASIC_GEN PARAMS:
+  VDD=1 VSS=0 VTHRESH=500E-3
R_R3         N17091277 PG1  20 TC=0,0 
X_S1    VVV 0 VOUT VO TPS61099_S1 
R_R50         0 PAD  1m TC=0,0 
C_C4         0 PG1  1n  TC=0,0 
V_U5_V13         U5_N02197 0 1Vdc
X_U5_U26         U5_N01899 U5_N01819 d_d PARAMS:
C_U5_C7         0 U5_N01665  1n IC=0 
C_U5_C12         U5_N01899 0  12n IC=0 
X_U5_U63         SW_EN U5_HYS U5_N01527 AND2_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U5_U670         U5_N01567 U5_HYS SW_EN U5_N01493 AND3_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U5_U672         VOUT U5_N56693 U5_HYS COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
G_U5_ABMII8         0 U5_N01899 VALUE { IF(V(U5_BURST_EN) >0.5,
+  0.5m*V(VIN)/V(VOUT),0)}
V_U5_V5         U5_N01819 0 2
X_U5_U32         0 U5_N01773 d_d PARAMS:
C_U5_C13         U5_N01773 0  12n  
V_U5_V14         U5_N56693 0 1.6
X_U5_U12         U5_SET U5_N01493 d_d PARAMS:
C_U5_C5         0 U5_SET  1n IC=0 
X_U5_U66         U5_SET U5_RESET U5_BURST_EN N01657 srlatchrhp_basic_gen
+  PARAMS: VDD=1 VSS=0 VTHRESH=0.5
C_U5_C9         0 U5_N01661  1n IC=0 
X_U5_U68         U5_N01673 U5_N02289 U5_N02283 OR2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U5_S18    U5_N01665 0 U5_N01899 0 BURST_ENABLE_U5_S18 
R_U5_R26         U5_N01493 U5_SET  {50u/0.693n}  
R_U5_R28         U5_N01673 U5_N01665  10  
X_U5_U25         U5_N01899 U5_N01943 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U5_U31         ZCB U5_N01567 INV_BASIC_GEN PARAMS: VDD=1 VSS=0 VTHRESH=500E-3
R_U5_R31         U5_N41943 U5_N01661  20  
X_U5_U28         U5_N01661 U5_N01773 d_d PARAMS:
X_U5_U67         U5_N01843 U5_N01773 U5_N02289 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U5_U30         U5_N01527 U5_RESET INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
G_U5_ABMII5         U5_N02197 COMP VALUE { IF(V(U5_N02283) >0.5, 2u,0)}
X_U5_U671         FB U5_N41524 U5_N41943 COMP_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=0.5
G_U5_ABMII9         0 U5_N01773 VALUE { IF(V(U5_N01661) < 0.5,
+  LIMIT(-0.5m*V(VIN)/(V(VOUT)+1u), -5m, 0),0)}
E_U5_ABM14         U5_N41524 0 VALUE { IF(V(U5_N01661)<0.5,1.03,1.01)}
X_U5_U64         U5_BURST_EN U5_N01943 U5_N01673 AND2_BASIC_GEN PARAMS: VDD=1
+  VSS=0 VTHRESH=500E-3
X_U5_U29         U5_N01661 SW_EN INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3
X_U5_U27         U5_N01661 U5_N01843 INV_BASIC_GEN PARAMS: VDD=1 VSS=0
+  VTHRESH=500E-3

*$
.subckt CONTROL_u2_S3 1 2 3 4  
S_u2_S3         3 4 1 2 _u2_S3
RS_u2_S3         1 2 1G
.MODEL         _u2_S3 VSWITCH Roff=1e9 Ron=1.0 Voff=0.0V Von=1.0V
.ends CONTROL_u2_S3
*$
.subckt CONTROL_u2_H1 1 2 3 4  
H_u2_H1         3 4 VH_u2_H1 1
VH_u2_H1         1 2 0V
.ends CONTROL_u2_H1
*$
.subckt CONTROL_u2_H2 1 2 3 4  
H_u2_H2         3 4 VH_u2_H2 1
VH_u2_H2         1 2 0V
.ends CONTROL_u2_H2
*$
.subckt CONTROL_u2_F1 1 2 3 4  
F_u2_F1         3 4 VF_u2_F1 55u
VF_u2_F1         1 2 0V
.ends CONTROL_u2_F1
*$
.subckt DRIVER_u3_H4 1 2 3 4  
H_u3_H4         3 4 VH_u3_H4 1
VH_u3_H4         1 2 0V
.ends DRIVER_u3_H4
*$
.subckt DRIVER_u3_S5 1 2 3 4  
S_u3_S5         3 4 1 2 _u3_S5
RS_u3_S5         1 2 1G
.MODEL         _u3_S5 VSWITCH Roff=1e12 Ron=350m Voff=0.2 Von=0.8
.ends DRIVER_u3_S5
*$
.subckt DRIVER_u3_S3 1 2 3 4  
S_u3_S3         3 4 1 2 _u3_S3
RS_u3_S3         1 2 1G
.MODEL         _u3_S3 VSWITCH Roff=1e12 Ron=300m Voff=0.2 Von=0.8
.ends DRIVER_u3_S3
*$
.subckt DRIVER_u3_H5 1 2 3 4  
H_u3_H5         3 4 VH_u3_H5 1
VH_u3_H5         1 2 0V
.ends DRIVER_u3_H5
*$
.subckt DRIVER_u3_S6 1 2 3 4  
S_u3_S6         3 4 1 2 _u3_S6
RS_u3_S6         1 2 1G
.MODEL         _u3_S6 VSWITCH Roff=1e12 Ron=180m Voff=0.2 Von=0.8
.ends DRIVER_u3_S6
*$
.subckt DRIVER_u3_S4 1 2 3 4  
S_u3_S4         3 4 1 2 _u3_S4
RS_u3_S4         1 2 1G
.MODEL         _u3_S4 VSWITCH Roff=1e12 Ron=250m Voff=0.2 Von=0.8
.ends DRIVER_u3_S4
*$
.subckt TPS61099_S1 1 2 3 4  
S_S1         3 4 1 2 _S1
RS_S1         1 2 1G
.MODEL         _S1 VSWITCH Roff=1e9 Ron=1m Voff=0.0V Von=1.0V
.ends TPS61099_S1
*$
.subckt BURST_ENABLE_U5_S18 1 2 3 4  
S_U5_S18         3 4 1 2 _U5_S18
RS_U5_S18         1 2 1G
.MODEL         _U5_S18 VSWITCH Roff=1e9 Ron=450m Voff=0.8 Von=0.2
.ends BURST_ENABLE_U5_S18
*$
.SUBCKT COMPHYS_BASIC_GEN INP INM HYS OUT PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
EIN INP1 INM1 INP INM 1 
EHYS INP1 INP2 VALUE { IF( V(1) > {VTHRESH},-V(HYS),0)}
EOUT OUT 0 VALUE { IF( V(INP2)>V(INM1), {VDD} ,{VSS})}
R1 OUT 1 1
C1 1 0 5n
RINP1 INP1 0 1K
.ENDS COMPHYS_BASIC_GEN
*$
**Reset has higher priority in this latch
.SUBCKT SRLATCHRHP_BASIC_GEN S R Q QB PARAMS: VDD=1 VSS=0 VTHRESH=0.5 
BGQ 0 Qint i=IF(V(R) > VTHRESH,-5,IF(V(S)>VTHRESH,5, 0)) Rpar=1000meg Cpar=1n
D_D10 Qint MY5 D_D1
V1 MY5 0 {VDD}
D_D11 MYVSS Qint D_D1
V2 MYVSS 0 {VSS} 
EQ Qqq 0 Qint 0 1
X3 Qqq Qqqd1 BUF_BASIC_GEN PARAMS: VDD={VDD} VSS={VSS} VTHRESH={VTHRESH}
RQq Qqqd1 Q 1
bEQb 0 Qb i=IF( V(Q) > VTHRESH, VSS,VDD) Rpar=1 Cpar=1n
Cdummy1 Q 0 1n 
.IC V(Qint)={VSS}
.MODEL D_D1 D( IS=1e-15 TT=10p Rs=0.05 N=.1 cjo=1f )
.ENDS SRLATCHRHP_BASIC_GEN
*$
.MODEL PMOS_SIMPLE PMOS 
*$
.subckt d_d 1 2
d1 1 2 dd
.model dd d
+ Vfwd=0 Epsilon=500m ron=50m Roff=99G
.ends d_d
*$
.SUBCKT D_D2 1 2
d1 1 2 dd1
.model dd1 d
+ Vfwd=0 Epsilon=22m ron=50m Roff=99G
.ENDS D_D2
*$
.SUBCKT D_D1 1 2
d1 1 2 dd1
.model dd1 d
+ Vfwd=0 Epsilon=2.2m ron=50m Roff=99G
.ENDS D_D1 
*$

****************************************** my
.SUBCKT COMP_BASIC_GEN INP INM Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5	
bE_ABM 0 Y  i=IF (V(INP) > V(INM), VDD,VSS) Rpar=1 Cpar=1n
.ENDS COMP_BASIC_GEN

 .SUBCKT BUF_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
A A 0 0 0 0  0 Y 0  BUF Ref=VTHRESH td={delay} Vhigh={VDD} Vlow={VSS} Cout=1n
.ENDS buf_BASIC_GEN

.SUBCKT INV_DELAY_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5 DELAY = 10n
A A 0 0 0 0   Y 0 0  BUF Ref=VTHRESH td={delay} Vhigh={VDD} Vlow={VSS} Cout=1n
.ENDS INV_BASIC_GEN

.SUBCKT COMP VOUT VINP VINN PARAMS: VHYS = 0.05
A VINP VINN 0 0 0 0 VOUT 0 SCHMITT  Cout=5n Vh={VHYS/2}
.ENDS COMP
*$
.SUBCKT COMP_INV VOUT VINP VINN PARAMS: VHYS = 0.05
A VINP VINN 0 0 0  VOUT 0 0 SCHMITT Cout=5n Vh={VHYS/2}
.ENDS COMP_INV
*
.SUBCKT NOR6_BASIC_GEN A B C D E F Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
BE_ABMGATE 0 Y i=IF(V(A)>VTHRESH|V(B)>VTHRESH|V(C)>VTHRESH|V(D)>VTHRESH|V(E)>VTHRESH|V(F)>VTHRESH,VSS,VDD) Rpar=1 Cpar=2n
.ENDS NOR6_BASIC_GEN

.SUBCKT INV_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A 0 0 0 0  Y 0 0 BUF Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS INV_BASIC_GEN

.SUBCKT BUF_BASIC_GEN A  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A 0 0 0 0 0 Y 0 BUF Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS BUF_BASIC_GEN
*
.SUBCKT OR2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
AOR2 A B 0 0 0 0 Y 0 OR Ref=VTHRESH Vhigh={VDD} Vlow={VSS}Cout=5n
.ENDS OR2_BASIC_GEN
*
.SUBCKT OR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B C 0 0 0 Y 0 OR Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS OR3_BASIC_GEN
*
.SUBCKT OR4_BASIC_GEN A B C D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B C D 0 0 Y 0 OR Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS OR4_BASIC_GEN
*
.SUBCKT NAND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B 0 0 0 Y 0 0 AND Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS NAND2_BASIC_GEN
*
.SUBCKT NAND3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
ANAND2 A B C 0 0 Y 0 0 AND Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS NAND3_BASIC_GEN
*
.SUBCKT NAND4_BASIC_GEN A B C D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B C D 0 Y 0 0 AND Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS NAND4_BASIC_GEN
*
.SUBCKT NOR2_BASIC_GEN A B  Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B 0 0 0 Y 0 0 OR Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS NOR2_BASIC_GEN
*
.SUBCKT NOR3_BASIC_GEN A B C Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B C 0 0 Y 0 0 OR Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS NOR3_BASIC_GEN
*
.SUBCKT NOR4_BASIC_GEN A B C D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B C D 0 Y 0 0 OR Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS NOR4_BASIC_GEN
*
.SUBCKT NOR5_BASIC_GEN A B C D  E Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
ANOR3 A B C D E Y 0 0 OR Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS NOR5_BASIC_GEN
*
.SUBCKT AND2_BASIC_GEN A B Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B 0 0 0 0 Y 0 AND Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS AND2_BASIC_GEN
*
.SUBCKT AND3_BASIC_GEN A B D Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B D 0 0 0 Y 0 AND Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS AND3_BASIC_GEN
*
.SUBCKT AND4_BASIC_GEN A B D E Y PARAMS: VDD=1 VSS=0 VTHRESH=0.5
A A B D E 0 0 Y 0 AND Ref=VTHRESH Vhigh={VDD} Vlow={VSS} Cout=5n
.ENDS AND4_BASIC_GEN
*
.SUBCKT FFLOP_0     1    2  11 12  5     6
Vr R 0 pwl 0 0 10.1u 0 10.105u 3
A1 7 0 4 0 2 8 0 0 AND Ref=1.5 Vhigh=3.5 Vlow=0.3 Rout=400 Cout=20p Trise=5n
A2 8 0 3 R 10 9 0 0 AND Ref=1.5 Vhigh=3.5 Vlow=0.3 Rout=400 Cout=20p Trise=5n
A3 1 0 8 0 10 7 0 0 AND Ref=1.5 Vhigh=3.5 Vlow=0.3 Rout=400 Cout=20p Trise=5n
A4 4 0 9 R 1 10 0 0 AND Ref=1.5 Vhigh=3.5 Vlow=0.3 Rout=400 Cout=20p Trise=5n
A5 4 0 7 0 6 5 0 0 AND Ref=1.5 Vhigh=3.5 Vlow=0.3 Rout=400 Cout=20p Trise=5n
A6 5 0 10 R 3 6 0 0 AND Ref=1.5 Vhigh=3.5 Vlow=0.3 Rout=400 Cout=20p Trise=5n
A7 11 0 0 R 0 4 0 0 and Ref=1.5 Vhigh=3.5 Vlow=0.3 Rout=100 Cout=10p Trise=5n
A8 12 0 0 R 0 3 0 0 and Ref=1.5 Vhigh=3.5 Vlow=0.3 Rout=100 Cout=10p Trise=5n
.ENDS 
.ENDS TPS61099